US06063782
Methyl 1-(3,3-dichloro-2-propenyl)-3-formyl-4,5-dimethylpyrrole-2-carboxylate
The title compound was prepared as grayish-white crystals in 87.1% yeild in a similar procedure to that described in Referential Example 9 by using methyl 3-formyl-4,5-dimethylpyrrole-2-carboxylate and 1,1, 3-trichloro-1-propene.

reactant | methyl 3-formyl-4,5-dimethylpyrrole-2-carboxylate | C(=O)C1=C(NC(=C1C)C)C(=O)OC | C9H11NO3
reactant | 1,1, 3-trichloro-1-propene | ClC(=CCCl)Cl | C3H3Cl3
product | Methyl 1-(3,3-dichloro-2-propenyl)-3-formyl-4,5-dimethylpyrrole-2-carboxylate | ClC(=CCN1C(=C(C(=C1C)C)C=O)C(=O)OC)Cl | C12H13Cl2NO3
